US07691882B2
2-(3-((E)-2-nitro-vinyl)-phenoxymethyl)-pyridine
A mixture of 3-(pyridin-2-ylmethoxy)-benzaldehyde (2.98 g, 14 mmol) described in Manufacturing Example 60-1-1, nitromethane (1.51 mL, 28 mmol), ammonium acetate (1.62 g, 21 mmol) and acetic acid (30 mL) was stirred for 6 hours at 100° C. This mixture was cooled to room temperature, concentrated under a reduced pressure, and diluted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and filtered. The filtrate was concentrated under a reduced pressure, and the residue was purified by silica gel column chromatography (heptane:ethyl acetate=4:1-2:1-1:1) to obtain the title compound (2.56 g, 71%).

reactant | 3-(pyridin-2-ylmethoxy)-benzaldehyde | 14 mmol, 2.98 g | N1=C(C=CC=C1)COC=1C=C(C=O)C=CC1 | C13H11NO2
reactant | nitromethane | 28 mmol, 1.51 mL | [N+](=O)([O-])C | CH3NO2
reactant | ammonium acetate | 21 mmol, 1.62 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 30 mL | C(C)(=O)O | C2H4O2
product | 2-(3-((E)-2-nitro-vinyl)-phenoxymethyl)-pyridine | 2.56 g, 71% | [N+](=O)([O-])/C=C/C=1C=C(OCC2=NC=CC=C2)C=CC1 | C14H12N2O3
